US08053438B2
TERT-BUTYL 4-(3-(4-(BENZO[D]THIAZOL-2-YLAMINO)PHENOXY)PYRAZIN-2-YL)-4-(HYDROXYMETHYL)PIPERIDINE-1-CARBOXYLATE
To an ice cooled solution of 1-tert-butyl 4-methyl 4-(3-(4-(benzo[d]thiazol-2-yl(tert-butoxycarbonyl)amino)phenoxy)pyrazin-2-yl)piperidine-1,4-dicarboxylate (122 mg, 0.184 mmol) in dry THF (5 mL) was added LAH, 2M in THF (0.08 mL, 0.160 mmol). After stirring for 16 hours, LC-MS indicates a mixture of product, starting material, desBoc starting material and desBoc product. The reaction was treated with more LAH, 2M in THF (0.09 mL). After 4 hours, LC-MS shows one main peak that is consistent with desired product minus Boc (m/z 534 MH+). The reaction was quenched with sat'd rochelle's salt and diluted with EtOAc (10 mL). The aqueous layer was extracted with EtOAc (10 mL) and the combined EtOAc layers were concentrated in vacuo. The brown residue was purified by reverse-phase preparative HPLC (Shimadzu) on a Phenomenex Gemini column (5 micron, C18, 110 Å, Axia, 100×50 mm) eluting at 90 mL/min with an linear gradient of 10% to 80% MeCN (0.1% TFA) in water (0.1% TFA) over 20 minutes to give tert-butyl 4-(3-(4-(benzo[d]thiazol-2-ylamino)phenoxy)pyrazin-2-yl)-4-(hydroxymethyl)piperidine-1-carboxylate (8.2 mg) as a TFA salt and white solid after lypholization. MS (ESI, pos. ion) m/z: 534.0 (M+1). IC50 (uM) ++++.

reactant | 1-tert-butyl 4-methyl 4-(3-(4-(benzo[d]thiazol-2-yl(tert-butoxycarbonyl)amino)phenoxy)pyrazin-2-yl)piperidine-1,4-dicarboxylate | 0.184 mmol, 122 mg | S1C(=NC2=C1C=CC=C2)N(C2=CC=C(OC=1C(=NC=CN1)C1(CCN(CC1)C(=O)OC(C)(C)C)C(=O)OC)C=C2)C(=O)OC(C)(C)C | C34H39N5O7S
reactant | LAH | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 0.09 mL | C1CCOC1 | C4H8O
solvent | THF | 0.160 mmol, 0.08 mL | C1CCOC1 | C4H8O
product | TERT-BUTYL 4-(3-(4-(BENZO[D]THIAZOL-2-YLAMINO)PHENOXY)PYRAZIN-2-YL)-4-(HYDROXYMETHYL)PIPERIDINE-1-CARBOXYLATE | S1C(=NC2=C1C=CC=C2)NC2=CC=C(OC=1C(=NC=CN1)C1(CCN(CC1)C(=O)OC(C)(C)C)CO)C=C2 | C28H31N5O4S
